### PR TITLE
DHS pass over UsingLean.lean

### PR DESCRIPTION
**Pull request by dsainati1**
Mostly wrote a new section about searching for theorems with `exact?` and `rw?`

### CODE REVIEW

File: LF/UsingLean.lean [hunk 1]
```diff
@@ -103,6 +99,114 @@ theorem complicated_computation : (2 * 3 + 4 * 5 : Nat) * 6 = 156 := by
...
+  # Using the Standard Library
+-/
+
+-- FULL
+/-
+  As part of using Lean's standard `Nat` type, we will also begin
+  using theorems about `Nat`s from the standard library. Because we
+  did not write or prove these theorems ourselves, however, we may not
+  know with all the available theorems off the top of our heads.
+
```
Comment (bcpierce00) [inline LF/UsingLean.lean:113]: Who is "we" there?

**Review by bcpierce00 — COMMENTED** [review]
Just a quick comment for now -- I'll look at this chapter carefully when Induction is under control.

File: LF/UsingLean.lean (hunk 1 above)
Comment (dsainati1) [reply LF/UsingLean.lean:113]: Readers, I suppose? This seemed like the same kind of grammatical pattern as saying "we prove this theorem" that we are using throughout the book, but maybe I'm wrong.

File: LF/UsingLean.lean [hunk 2]
```diff
@@ -103,6 +99,114 @@ theorem complicated_computation : (2 * 3 + 4 * 5 : Nat) * 6 = 156 := by
...
+example (a b : Nat) : a + b = b + a := by
+  /- this will suggest that we use `exact Nat.add_comm a b` to close this goal -/
+  exact?
+
+-- FULL
+/-
+  If you are using the Lean 4 extension in VSCode, the InfoView will
+  have a blue `[apply]` button that shows the suggested theorem to
+  close the goal. You can click on this button to replace the
+  occurence of `exact?` with this tactic; idiomatic Lean does not
```
Comment (KihongHeo) [inline LF/UsingLean.lean]: This is a bit confusing. I am using VScode extension version 0.0.237 but I do not see the "blue apply" button. Instead, I see a light bulb (suggestion) button above `exact?`. Since the UI may change in future versions, can we describe this a bit more generally rather than referring to a specific button?

File: LF/UsingLean.lean
Comment (KihongHeo) [inline LF/UsingLean.lean]: It would be better to explain what `_` means.

Comment (KihongHeo) [inline LF/UsingLean.lean:240]: This part is probably unclear to readers.
I suggest adding a higher-level description using a math-book style notation as follows:
```
a + (b + c)
= (a + b) + c        ...   [by add assoc]
= (b + a) + c        ...   [by add comm]
= b + (a + c)        ...   [by add assoc]
```
And then, we can explain that `calc` is used to mimic such a process.

Comment (KihongHeo) [inline LF/UsingLean.lean]: Do we need this line?
Or replace with comments? Readers may wonder what it means.

File: LF/UsingLean.lean (hunk 2 above)
Comment (chenson2018) [reply LF/UsingLean.lean]: This UI is stable, I don't think we should avoid mentioning the specific.

I believe the confusion here is that there are two UI components to apply suggestions. The lightbulb you mention is to apply code actions in VSCode, which appears inline. Then in the infoview there is another button that appears for suggestions.

Comment (KihongHeo) [reply LF/UsingLean.lean]: I see. I missed the button because the messages were folded. It might be helpful to add a brief note about this for users like me.

File: LF/UsingLean.lean [hunk 3]
```diff
@@ -241,20 +382,21 @@ def minustwo (n : Nat) : Nat :=
...
-  case zero => rfl
+  case zero =>
+    rfl
   case succ n' ih =>
-    rewrite [even, ih, NatPlayground.Nat.notb_involutive]; rfl
+    rw [even, ih, Bool.not_not]
+  -- /ADMITTED
+-- GRADE_THEOREM 1: even_succ
 
   -- TODO: talk about using `Nat.add_zero` and friends from now on.
```
Comment (rogerburtonpatel) [inline LF/UsingLean.lean:401]: Let's address this after we merge. It's a 2-5 liner.

**Review by rogerburtonpatel — APPROVED** [review]
Looks quite solid. Left a comment on a lingering TODO that's easy to fix after merge.

**Review by mwhicks1 — APPROVED** [review]
Seems fine to me, but I wonder about a bigger change to both UsingLean.lean and Basics.lean, as follows:
1. Proofs in Basics are as in the Rocq original, using computation and unsealed definitions. This gives a way to explain various tactics and the basics of proofs for abstractions without hand-waves.
2. When we switch to Lean Nats in UsingLean we explain that the proofs are done differently: You do not have access to the underlying Nat definitions. We show how proofs work by rewriting using the exposed rules. Finally, we tie the knot, showing how you'd implement this rule-based approach using our own Nats, basically what's in Basics now.

I think this is not something to do now. We can do it later, if we agree, since the goal is that the "API" to the rest of the books will be the same.
